US07592456B2
Step 1: (1S)-1-(2-Iodo-3-methylphenyl)ethanol
1-(2-Iodo-3-methylphenyl)ethanone (500 mg, 1.92 mmol) (prepared according to the procedure of Buchwald, et al., J. Am. Chem. Soc. 1987, 109, 7137-7141) was added slowly over a period of 5 minutes to a cooled (−25° C.) solution of (−) DIP-Chloride™ (691 mg, 2.15 mmol) in THF (2 mL). The reaction was stirred at −20° C. for 6 hours. MeOH (0.8 mL) was added, then the reaction was warmed to ambient temperature and concentrated in vacuo. The resultant residue was taken up in ethyl acetate (1 mL) and ethanolamine (0.4 mL, 4.2 mmol) was added. As the solution stirred vigorously, a precipitate formed. The precipitate was filtered off; the liquors were diluted with hexane (1 mL) and filtered again. The liquors were concentrated in vacuo and the resultant residue was purified by flash column chromatography on silica, eluting with 10% ethyl acetate/isohexane, followed by recrystallisation with isohexane to give the title compound as a white solid (120 mg). SFC (10% MeOH, chiralpak AD-H) e.e. 100%; 1H NMR (400 MHz, d6-DMSO): δ 7.33 (1H, dd, J=1.6, 7.3 Hz); 7.27 (1H, t, J=7.5 Hz); 7.21 (1H, dd, J=1.5, 7.2 Hz); 5.36 (1H, d, J=4.1 Hz); 4.92-4.88 (1H, m); 2.40 (3H, s); 1.26 (3H, d, J=6.3 Hz).

reactant | 1-(2-Iodo-3-methylphenyl)ethanone | 1.92 mmol, 500 mg | IC1=C(C=CC=C1C)C(C)=O | C9H9IO
reactant | (−) DIP-Chloride | B([C@@H]1CC2CCC([C@H]1C)C2(C)C)([C@@H]3CC4CCC([C@H]3C)C4(C)C)Cl | C22H38BCl
reactant | MeOH | 0.8 mL | CO | CH4O
reactant | ethanolamine | 4.2 mmol, 0.4 mL | C(O)CN | C2H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1S)-1-(2-Iodo-3-methylphenyl)ethanol | 120 mg | IC1=C(C=CC=C1C)[C@H](C)O | C9H11IO
